US05300716
19.5 G (0.65 mole) of paraformaldehyde, 54.8 g (0.75 mole) of diethylamine, 2.6 g of hydrated copper (II) acetate and 65 ml of THF were charged into a 1 l reactor. The mixture was maintained at reflux for 30 min and, still at reflux, the solution of deca-1,4-diyne obtained as described above was added thereto. The reaction mixture was kept at reflux for 11/2 h until the deca-1,4-diyne had completely disappeared. The mixture was then extracted at 0° with a 15% solution of HCl (3×70 ml) and the acidic layers were extracted with two fractions of 50 ml each of petroleum ether 80:100°, then 150 ml of a 30% NaOH solution were added thereto at 0°. The basic phase thus obtained was extracted with three fractions of 150 ml each of ethyl acetate and the organic extracts treated with a saturated aqueous solution of NaCl, dried over Na2SO4, filtered and evaporated to give 105 g of N,N-diethyl-undeca-2,5-diynyl-amine.

reactant | paraformaldehyde | 0.65 mole | C=O | CH2O
reactant | diethylamine | 0.75 mole, 54.8 g | C(C)NCC | C4H11N
reactant | THF | 65 ml | C1CCOC1 | C4H8O
product | deca-1,4-diyne | C#CCC#CCCCCC | C10H14
